*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/6.80e-04[uF]/100[V]
* Murata P/N :GCM155R72A681KA01
* Property : C = 6.80e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R72A681KA01 Port1 Port2
C01 Port1 N01 6.76e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 2.13e-10
R03 N02 N03 3.96e-01
C04 N03 N04 7.90e-08
R04 N03 N04 2.78e+04
C05 N04 N05 1.04e-07
R05 N04 N05 2.98e+03
C06 N05 N06 9.31e-08
R06 N05 N06 3.12e+02
C07 N06 N07 7.93e-08
R07 N06 N07 3.67e+01
C08 N07 N08 8.78e-08
R08 N07 N08 5.25e+00
C09 N08 N09 6.27e-08
R09 N08 N09 1.65e+00
C10 N09 N10 2.44e-08
R10 N09 N10 7.55e-01
C11 N10 N11 7.71e-09
R11 N10 N11 2.86e-01
C12 N11 N12 2.53e-10
L12 N11 N12 2.47e-11
R12 N11 N12 3.13e-01
C13 N12 Port2 3.62e-12
L13 N12 Port2 1.11e-10
R13 N12 Port2 6.43e+00
.ENDS GCM155R72A681KA01
